US07176203B2
f) 5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-oxo-2H-[1,2′]bipyridinyl-3′-carbonitrile
To a degassed mixture of 5-bromo-2-oxo-2H-[1,2]bipyridinyl-3′-carbonitrile (0.281 g), bis(neopentyl glycolato)diboron (0.275 g), dry 1,4-dioxane (5 ml) and potassium acetate (0.212 g), under an atmosphere of dry nitrogen, was added [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) dichloromethane complex (0.03 g). The degassed mixture was heated at 80° C. under a nitrogen atmosphere for 24 h. After cooling to 25° C., 1 M aqueous sodium hydroxide (24 ml) was added and the mixture stirred vigorously for 0.5 h in air. The mixture was filtered, and the filtrate acidified to pH 4 by addition of 2 N aqueous hydrochloric acid (12 ml). The product was extracted with dichloromethane, and the solvent stripped at reduced pressure to afford a brown oil, used without further purification. MS (ES+) m/z 242 (boronic acid) and 310 (boronate ester) [M+H]+.

reactant | 5-bromo-2-oxo-2H-[1,2]bipyridinyl-3′-carbonitrile | 0.281 g | BrC=1C=CC(N(C1)C1=NC=CC=C1C#N)=O | C11H6BrN3O
reactant | bis(neopentyl glycolato)diboron | 0.275 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 0.212 g | C(C)(=O)[O-].[K+]
reactant | sodium hydroxide | 1 M, 24 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-oxo-2H-[1,2′]bipyridinyl-3′-carbonitrile | CC1(COB(OC1)C=1C=CC(N(C1)C1=NC=CC=C1C#N)=O)C | C16H16BN3O3
